US05912256
1-tert-butyloxycarbonyl-4-hydroxy-4-(6-benzyloxynaphth-2-yl)piperidine
Beginning with 5.0 gm (15.9 mMol) 2-bromo-6-benzyloxynaphthalene and 3.34 gm (16.8 mMol) 1-tert-butyloxycarbonyl-4-piperidone, 2.31 gm (33%) of the title compound were recovered as a white solid by the procedure described in Preparation I.

reactant | 2-bromo-6-benzyloxynaphthalene | 15.9 mMol, 5.0 gm | BrC1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1 | C17H13BrO
reactant | 1-tert-butyloxycarbonyl-4-piperidone | 16.8 mMol, 3.34 gm | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
product | 1-tert-butyloxycarbonyl-4-hydroxy-4-(6-benzyloxynaphth-2-yl)piperidine | 2.31 gm, 33% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1)O | C27H31NO4
